US07241791B2
Step 2: 4-[7-chloro-2-pentyl-2H-indazol-3-yl]phenol
Prepared according to Method D step C from 7-chloro-3-(4-methoxyphenyl)-2-pentyl-2H-indazole (0.015 g, 0.045 mmol), boron tribromide (0.05 mL, 0.5 mmol) and 0.2 mL of cyclohexene to give the product (0.007 g).

reactant | 7-chloro-3-(4-methoxyphenyl)-2-pentyl-2H-indazole | 0.045 mmol, 0.015 g | ClC1=CC=CC2=C(N(N=C12)CCCCC)C1=CC=C(C=C1)OC | C19H21ClN2O
reactant | boron tribromide | 0.5 mmol, 0.05 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.2 mL | C1=CCCCC1 | C6H10
product | 4-[7-chloro-2-pentyl-2H-indazol-3-yl]phenol | 0.007 g | ClC1=CC=CC2=C(N(N=C12)CCCCC)C1=CC=C(C=C1)O | C18H19ClN2O
